US05536725
This compound is prepared in a manner analogous to that of Step A of this Example, using 13.9 grams (0.09 mole) of methyl 3-chlorophenyl ketone and 33.3 mL of methylmagnesium bromide (3.0M in diethyl ether) in 50 mL of dry tetrahydrofuran, yielding 2-(3-chlorophenyl)propan-2-ol.

reactant | methyl 3-chlorophenyl ketone | 0.09 mole, 13.9 grams | ClC=1C=C(C=CC1)C(=O)C | C8H7ClO
reactant | methylmagnesium bromide | 3.0M, 33.3 mL | C[Mg]Br
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2-(3-chlorophenyl)propan-2-ol | ClC=1C=C(C=CC1)C(C)(C)O | C9H11ClO
